US07897631B2
4-Hept-6-ynyl-1H-imidazol-2-ylamine hydrochloride (0.060 g, 0.281 mmol) was reacted with (3-Azido-2-methyl-propenyl)-benzene (0.058 g, 0.336 mmol) following the general procedure for click reactions outlined above to produce 4-{5-[1-(2-Methyl-3-phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-pentyl}-1H-imidazol-2-ylamine hydrochloride (0.064 g, 65%) as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.23 (s, 1H), δ 6.93-6.83 (m, 5H), δ 6.38 (s, 1H), δ 6.08 (s, 1H), δ 4.93 (s, 2H), δ 2.51 (t, 2H), δ 2.09 (t, 2H), δ 1.43 (s, 3H), δ 1.41 (m, 2H), δ 1.25 (m, 2H), δ 1.05 (m, 2H) ppm; 13C (75 MHz, CD3OD) δ 147.7, 144.8, 136.3, 132.8, 129.8, 128.9, 128.6, 128.5, 128.2, 127.6, 127.5, 127.0, 108.5, 61.3, 28.0, 27.6, 27.5, 24.0, 22.9, 14.7 ppm; HRMS (ESI) calcd for C20H27N6 (M+) 351.2291. found 351.2291.

reactant | 4-Hept-6-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.281 mmol, 0.060 g | Cl.C(CCCCC#C)C=1N=C(NC1)N
reactant | (3-Azido-2-methyl-propenyl)-benzene | 0.336 mmol, 0.058 g | N(=[N+]=[N-])CC(=CC1=CC=CC=C1)C | C10H11N3
product | 4-{5-[1-(2-Methyl-3-phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-pentyl}-1H-imidazol-2-ylamine hydrochloride | 0.064 g, 65% | Cl.CC(CN1N=NC(=C1)CCCCCC=1N=C(NC1)N)=CC1=CC=CC=C1 | InChI=1S/C20H26N6.ClH/c1-16(12-17-8-4-2-5-9-17)14-26-15-19(24-25-26)11-7-3-6-10-18-13-22-20(21)23-18;/h2,4-5,8-9,12-13,15H,3,6-7,10-11,14H2,1H3,(H3,21,22,23);1H
